* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.69761652381e-10
.param C2=3.79874890499e-11
.param Csh=1.88601802005e-11
.param L1=2.27232172391e-07
.param Vsrc_amp=600.722585667
.param ne=2.13294803749e+14
.param nu_m=123900897.935

* Sources
Vsrc src 0 SIN(0 600.722585667 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 64.3040889491
Lbulk nb ns 5.18996149508e-07
Csh ns n 1.88601802005e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
